US08440785B2
Synthesis of 1,2-bis(2-ethylhexyl)benzene
A dry 2-L three-neck flask equipped with a 500-mL addition funnel, a condenser, a stir bar, and a nitrogen outlet was charged with 1,2-dichlorobenzene (540 mmol), Ni(dppp)Cl2 (6 mmol), and diethyl ether (200 mL). The addition funnel was charged with 3M 2-ethylhexylmagnesium bromide (400 mL). The reaction flask was cooled to 0° C. and the 2-ethylhexylmagnesium bromide was slowly added to the reaction. After the addition of Grignard reagent was completed, the reaction mixture was stirred at 0° C. for 1 hour. The reaction mixture was then warmed to gentle reflux for 12 hours. The reaction mixture was cooled to room temperature and poured onto ice and 100 mL of 10% HCl with vigorous stirring. The organic phase was separated and the aqueous phase was extracted with chloroform (3×500 mL). The combined organic phases were dried over anhydrous magnesium sulfate and excess solvent was removed by rotary evaporation. The volatile impurities were removed by distillation and the residue was purified by column chromatography (hexanes). The product was isolated as colorless oil (101 g, 62%).

reactant | 1,2-dichlorobenzene | 540 mmol | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | 2-ethylhexylmagnesium bromide | 3M, 400 mL | C(C)C(C[Mg]Br)CCCC
reactant | HCl | 100 mL | Cl | ClH
catalyst | Ni(dppp)Cl2 | 6 mmol | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1,2-bis(2-ethylhexyl)benzene | 101 g, 62% | C(C)C(CC1=C(C=CC=C1)CC(CCCC)CC)CCCC | C22H38
